US06992087B2
Preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]-3,6-dimethylpyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-dimethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol and methyl iodide, and making non-critical variations provided the title compound as a oil: 1H NMR (300 MHz, CDCl3) δ) 7.51, 7.43, 7.37-7.25, 5.86, 5.40, 4.28, 3.43, 3.23, 3.06, 2.42, 2.25; HRMS (FAB) calcd for C22H21Cl2N3O+H 414.1140, found 414.1143.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-dimethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1C)N[C@H]1[C@H](CC2=CC=CC=C12)O)C | C21H19Cl2N3O
reactant | methyl iodide | CI | CH3I
product | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]-3,6-dimethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1C)N[C@H]1[C@H](CC2=CC=CC=C12)OC)C | C22H21Cl2N3O
